US03984546
8,9-Diethoxy-1,2,3,4-tetrahydro-3-(2-piperidinoethyl)-5H-[1]-benzopyrano[3,4-c]pyridin-5-one.
A mixtue of 0.01 m of 1,2,3,4-tetrahydro-8,9-dihydroxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]-pyridin-5-one, 0.022 m of diethylsulfate and 0.1 m K2CO3 in 250 cc of acetone was refluxed for 20 hr and filtered hot. After evaporation, the residue was crystallized twice from EtOAc affording 0.6 g of product; mp 144°-146°C.

reactant | 1,2,3,4-tetrahydro-8,9-dihydroxy-3-(2-piperidinoethyl)-5H-[1]benzopyrano[3,4-c]-pyridin-5-one | OC1=CC2=C(C=C1O)C1=C(CN(CC1)CCN1CCCCC1)C(O2)=O | C19H24N2O4
reactant | diethylsulfate | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 250 cc | CC(=O)C | C3H6O
product | 8,9-Diethoxy-1,2,3,4-tetrahydro-3-(2-piperidinoethyl)-5H-[1]-benzopyrano[3,4-c]pyridin-5-one | C(C)OC1=CC2=C(C=C1OCC)C1=C(CN(CC1)CCN1CCCCC1)C(O2)=O | C23H32N2O4
